US06734183B2
(iii) 1-{[4-(4-chlorophenyl)piperazin-1-yl]sulfonyl}-4-(5-chloropyridin-3-yl)butan-2-ol
To a stirred solution of 1-{[4-(4-chlorophenyl)piperazin-1-yl]sulfonyl}-4-(5-chloropyridin-3-yl)butan-2-one (228 mg, 0.51 mmol) in a mixed solvent system of CH2Cl2/MeOH (1:1, 5 mL) at RT was added solid sodium borohydride in one portion. The reaction was stirred for 40 minutes before being quenched with aqueous hydrochloric acid (1 M, 2 mL). The layers were then separated and the aqueous phase extracted with CH2Cl2 (3×5 mL). The combined organic extracts were dried, (MgSO4), filtered and concentrated in vacuo. The crude product was then filtered through a plug of silica gel, eluting with 50% ethyl acetate in hexane to give the title compound (111 mg, 0.25 mmol).

reactant | 1-{[4-(4-chlorophenyl)piperazin-1-yl]sulfonyl}-4-(5-chloropyridin-3-yl)butan-2-one | 0.51 mmol, 228 mg | ClC1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)CC(CCC=1C=NC=C(C1)Cl)=O | C19H21Cl2N3O3S
reactant | sodium borohydride | [BH4-].[Na+]
solvent | CH2Cl2 MeOH | 5 mL | C(Cl)Cl.CO
product | 1-{[4-(4-chlorophenyl)piperazin-1-yl]sulfonyl}-4-(5-chloropyridin-3-yl)butan-2-ol | 0.25 mmol, 111 mg | ClC1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)CC(CCC=1C=NC=C(C1)Cl)O | C19H23Cl2N3O3S
